US06730690B2
Triphenylacetic acid (499.6 mg, 1.73 mmol) was dissolved in N,N-dimethylformamide (DMF, 3.46 mL). Fluoro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (TFFH, 460.1 mg, 1.742 mmol) and anhydrous triethylamine (480 μl, 3.44 mmol) were added and the solution was cooled to 0° C. After 10 minutes hydrazine monohydrate (168 μl, 3.46 mmol) was added. The reaction was allowed to warm, and after stirring at room temperature for 30 minutes, it was worked up by adding water and filtering the resulting precipitate. The precipitate was dried under vacuum to give 2,2,2-triphenylacetohydrazide (340.1 mg).

reactant | Triphenylacetic acid | 1.73 mmol, 499.6 mg | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | Fluoro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 1.742 mmol, 460.1 mg | F[P-](F)(F)(F)(F)F.FC(=[N+](C)C)N(C)C
reactant | triethylamine | 3.44 mmol, 480 μl | C(C)N(CC)CC | C6H15N
reactant | hydrazine monohydrate | 3.46 mmol, 168 μl | O.NN
solvent | N,N-dimethylformamide | 3.46 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,2,2-triphenylacetohydrazide | 340.1 mg | C1(=CC=CC=C1)C(C(=O)NN)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18N2O
